US08497274B2
(ii) Production of N-[5-(4-amino-2-nitrophenoxy)-2-fluorophenyl]-2-chloro-3-(1-cyano-1-methylethyl)benzamide
To a solution of 2-chloro-3-(1-cyano-1-methylethyl)-N-(2-fluoro-5-hydroxyphenyl)benzamide (2.0 g, 6.01 mmol) and 4-fluoro-3-nitroaniline (940 mg, 6.02 mmol) in N,N-dimethylformamide (12 mL) was added cesium carbonate (2.94 g, 9.02 mmol), and the mixture was stirred at 80° C. for 16 hr. The reaction mixture was cooled to room temperature, insoluble material was filtered off and washed with ethyl acetate. The filtrate and washings were combined and the mixture was concentrated under reduced pressure. The obtained residue was diluted with ethyl acetate (120 mL), and washed with saturated aqueous sodium hydrogen carbonate solution (120 mL). The aqueous layer was extracted with ethyl acetate (120 mL). The combined organic layer was washed with saturated brine (120 mL×2), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (ethyl acetate/n-hexane=20/80→100/0), and the obtained solution was concentrated under reduced pressure to give the title compound (1.66 g, 59%) as a yellow powder.

reactant | 2-chloro-3-(1-cyano-1-methylethyl)-N-(2-fluoro-5-hydroxyphenyl)benzamide | 6.01 mmol, 2.0 g | ClC1=C(C(=O)NC2=C(C=CC(=C2)O)F)C=CC=C1C(C)(C)C#N | C17H14ClFN2O2
reactant | 4-fluoro-3-nitroaniline | 6.02 mmol, 940 mg | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | cesium carbonate | 9.02 mmol, 2.94 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | N-[5-(4-amino-2-nitrophenoxy)-2-fluorophenyl]-2-chloro-3-(1-cyano-1-methylethyl)benzamide | 1.66 g, 59% | NC1=CC(=C(OC=2C=CC(=C(C2)NC(C2=C(C(=CC=C2)C(C)(C)C#N)Cl)=O)F)C=C1)[N+](=O)[O-] | C23H18ClFN4O4
